US05000775
Ethyl 2-(2-propenylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 6 g (60 mmol) of allyl urea was reacted with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 18 hours. The product was separated and then recrystallized from methylcyclohexane to yield 4.77 g of a yellow solid product (m.p.=48°-49° C.) identified in Table I.

reactant | allyl urea | 60 mmol, 6 g | C(C=C)NC(=O)N | C4H8N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
product | Ethyl 2-(2-propenylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 4.77 g | C(C=C)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C10H11F3N2O3
